US06492550B2
Methyl 7-tert-Butoxycarbonyl-2-oxoheptanoate
To a suspension of activated zinc (0.65 g, 10 mmol) in THF (20 ml) was added t-butyl 6-bromohexanoate (1.38 g, 5.5 mmol). The mixture was stirred at room temperature for 15 hours. The excess zinc was allowed to settle for 2 hours. The solution was then transferred to a pre-formed solution of CuCN (0.45 g, 10.7 mmol) and LiCl (0.45 g, 10.7 mmol) at −20° C. The resulting mixture was stirred at 0° C. for 5 minutes and cooled to −60° C., and methyl chlorooxoacetate (0.68 ml, 5.5 mmol) was added. The resulting mixture was stirred at −60° C. for 1 hour, and reaction temperature allowed to rise gradually to 0° C. over 4 hours. The mixture was then poured into aqueous ammonium chloride, extracted 3 times with ether. The combined organic phase was washed with aqueous ammonium chloride, brine, dried over sodium sulfate and concentrated in vacuo to afford the title material (1.1 g) as a pale yellow liquid, which is used directly in next step.

reactant | t-butyl 6-bromohexanoate | 5.5 mmol, 1.38 g | BrCCCCCC(=O)OC(C)(C)C | C10H19BrO2
reactant | CuCN | 10.7 mmol, 0.45 g | C(#N)[Cu]
reactant | LiCl | 10.7 mmol, 0.45 g | [Li+].[Cl-]
reactant | methyl chlorooxoacetate | 5.5 mmol, 0.68 ml | ClC(C(=O)OC)=O | C3H3ClO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | zinc | 10 mmol, 0.65 g | [Zn] | Zn
product | Methyl 7-tert-Butoxycarbonyl-2-oxoheptanoate | 1.1 g | C(C)(C)(C)OC(=O)CCCCCC(C(=O)OC)=O | C13H22O5
